US08071768B2
To a solution of 2-chloro-5-nitropyridine (7.01 g, 44.4 mmol) in THF (30 mL) and cyclopentanol (3.9 g, 45.3 mmol) was added sodium hydride (1.3 g, 54.2 mmol) portionwise with stirring over ˜30 sec with ice-bath cooling at 0° C. After stirring at 0° C. for 5 min, the ice bath was removed and the reaction was stirred at rt for 3 h. It was then concentrated in vacuo and the residue was dissolved in DCM and washed extensively with 1 M NaHCO3 and then dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The crude product was purified by flash column chromatography (silica gel, 9:1 Hexane:Ethyl Acetate) to obtain pure 2-cyclopentyloxy-5-nitro-pyridine (0.4 g, 4%). 1H-NMR (300 MHz, CDCl3): δ 9.07 (s, 1H), 8.32 (m, 1H), 6.74 (d, 1H), 5.53 (m, 1H), 2.00 (m, 2H), 1.81 (m, 4H), 1.66 (m, 2H).

reactant | 2-chloro-5-nitropyridine | 44.4 mmol, 7.01 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | cyclopentanol | 45.3 mmol, 3.9 g | C1(CCCC1)O | C5H10O
reactant | sodium hydride | 54.2 mmol, 1.3 g | [H-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-cyclopentyloxy-5-nitro-pyridine | 0.4 g, 4% | C1(CCCC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C10H12N2O3
